US07402595B2
6-bromo-2-(4-methanesulfonylaminobenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (139 mg) in tetrahydrofuran (5 ml) was added triethylamine (0.083 ml) and then methanesulfonyl chloride (0.028 ml) was added. The mixture was stirred at room temperature for 3 hrs. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with dichloromethane. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1→2/3) to give the title compound (90 mg, 55%).

reactant | 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 139 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N | C24H19BrN2O3
reactant | triethylamine | 0.083 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.028 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-(4-methanesulfonylaminobenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 90 mg, 55% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)NS(=O)(=O)C | C25H21BrN2O5S
